US05198560
(a) (Z)-5-chloro-1,1-diethoxy-4-pentene-2-yne [compound B]
Neat cis-1,2-dichloroethylene (4.5 ml, 60 mmol) followed by butylamine (8.0 ml, 81 mmol) was added to a solution of copper iodide (0.90 g, 4.73 mmol) and palladium tetrakis(triphenylphosphine) (1 g, 0.86 mmol) in 40 mL of dry benzene stirring at 25° C. under argon. Immediately thereafter, a solution of 3,3-diethoxy-propyne (5 g, 39 mmol) in 10 mL of benzene was added via cannula. The reaction vessel was wrapped in foil to shield it from light, and the reaction mixture was stirred for 4.2 h at 25° C. The dark brown reaction mixture was filtered by suction through a coarse frit and diluted to approximately 180 ml with diethylether. The solution was washed with 75 mL of water and 120 mL saturated brine, and the organic layer was dried over anhydrous Na2SO4 and then concentrated in vacuo. The residue was flash chromatographed in SiO2 using 5%, then 10%, and then 15% diethyolether/pentane as eluent to provide the desired product as clear liquid (3.9 g, 55%).

reactant | cis-1,2-dichloroethylene | 60 mmol, 4.5 ml | Cl\C=C/Cl | C2H2Cl2
reactant | butylamine | 81 mmol, 8.0 ml | C(CCC)N | C4H11N
reactant | 3,3-diethoxy-propyne | 39 mmol, 5 g | C(C)OC(C#C)OCC | C7H12O2
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
catalyst | copper iodide | 4.73 mmol, 0.90 g | [Cu](I)I
catalyst | palladium tetrakis(triphenylphosphine) | 0.86 mmol, 1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | (Z)-5-chloro-1,1-diethoxy-4-pentene-2-yne | 3.9 g, 55% | Cl\C=C/C#CC(OCC)OCC | C9H13ClO2
